US08207164B2
e) 2-Amino-2-(3-bromo-phenyl)-3,3-difluoro-propan-1-ol hydrochloride
[1-(3-Bromo-phenyl)-2,2-difluoro-1-hydroxymethyl-ethyl]-carbamic acid tert-butyl ester (8.408 g, 22.96 mmol) was dissolved in 105 ml 4 N HCl in dioxane. The reaction was stirred for 45 min. After completion volatiles were removed under reduced pressure to yield a white solid. 1H-NMR (360 MHz, DMSO-d6): 9.30 (br, 3H, NH3+), 7.85 (s, 1H), 7.70 (d, 1H), 7.60 (d, 1H), 7.49 (t, 1H), 6.63 (t, 1H, CHF2), 6.03 (br, 1H), 4.05 (m, 2H); MS: 266 [(M+H)+].

reactant | [1-(3-Bromo-phenyl)-2,2-difluoro-1-hydroxymethyl-ethyl]-carbamic acid tert-butyl ester | 22.96 mmol, 8.408 g | C(C)(C)(C)OC(NC(C(F)F)(CO)C1=CC(=CC=C1)Br)=O | C14H18BrF2NO3
reactant | HCl | 4 N, 105 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Amino-2-(3-bromo-phenyl)-3,3-difluoro-propan-1-ol hydrochloride | Cl.NC(CO)(C(F)F)C1=CC(=CC=C1)Br | InChI=1S/C9H10BrF2NO.ClH/c10-7-3-1-2-6(4-7)9(13,5-14)8(11)12;/h1-4,8,14H,5,13H2;1H
